US06248740B1
Production of 6-[2-[2-[4-(diphenylmethyl)piperazino]ethoxy]ethoxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
260 mg of 60% sodium hydride dispersion in mineral oil was suspended in 20 ml of tetrahydrofuran; 1.15 g of 4-(diphenylmethyl)-1-[2-(2-hydroxyethoxy)ethyl]piperazine was added, followed by heating and refluxing for 1 hour. After cooling, 540 mg of 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 3 hours. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with dichloromethane-ethyl acetate-methanol (10:10:1). The desired fraction was collected; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 730 mg of the title compound.

reactant | sodium hydride | 260 mg | [H-].[Na+]
reactant | 4-(diphenylmethyl)-1-[2-(2-hydroxyethoxy)ethyl]piperazine | 1.15 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCO)C1=CC=CC=C1 | C21H28N2O2
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 540 mg | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-[2-[2-[4-(diphenylmethyl)piperazino]ethoxy]ethoxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 730 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCOC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | C27H32N6O2
